US08247431B2
Step 1: Preparation of 3-amino-6-chloro-2-iodopyridine
5-Amino-2-chloropyridine (3.0 g) was dissolved in DMF (40 mL), N-iodosuccinimide (5.25 g) was added and the reaction mixture was stirred at room temperature for 3 hours. Water and MTB-ether were added to the reaction mixture, the layers were separated and the organic layer was washed 3× with water, washed with brine, dried over MgSO4 and concentrated in vacuum. The residue was purified by column chromatography (silica 60, hexane/ethyl acetate=3:1, Rf=0.30) to afford 4.80 g of the title compound of the formula

reactant | 5-Amino-2-chloropyridine | 3.0 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | N-iodosuccinimide | 5.25 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-amino-6-chloro-2-iodopyridine | 4.80 g | NC=1C(=NC(=CC1)Cl)I | C5H4ClIN2
